US06162826
0.240 g (0.72 mmol) of (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran was dissolved in 5 ml of methylene chloride and 0.311 g (1.44 mmol) of pyridiniumchlorochromate was added thereto. The reaction solution was stirred for one hour, filtered through diatomaceous earth, and then concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexanelethylacetate=4/1, v/v) to obtain 0.167 g (Yield 70%) of (1R,4aS,7aS)-7-formyl-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran as a colorless oil.

reactant | (1R,4aS,7aS)-7-hydroxymethyl-1-methoxy4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | 0.72 mmol, 0.240 g | OCC1=CC[C@H]2[C@@H]1[C@@H](OC=C2COCC2=CC=C(C=C2)OC)OC | C19H24O5
reactant | pyridiniumchlorochromate | 1.44 mmol, 0.311 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (1R,4aS,7aS)-7-formyl-1-methoxy-4-(p-methoxybenzyloxymethyl)-1,4a,5,7a-tetrahydrocyclopenta[c]pyran | 0.167 g, Yield 70% | C(=O)C1=CC[C@H]2[C@@H]1[C@@H](OC=C2COCC2=CC=C(C=C2)OC)OC | C19H22O5
